US07947706B2
To a solution of 3.2 g of methyl 1H-pyrrolo[2,3-b]pyridine-2-carboxylate hydrochloride in 165 mL of pyridine is added dropwise, at 0° C. under an argon atmosphere, a solution of 5.04 g of pyridinium tribromide in 35 mL of pyridine. The reaction mixture is then stirred at 0° C., and then poured onto a mixture of 250 g of crushed ice and 750 ml of distilled water. The suspension is filtered and the solid is washed with twice 25 mL of distilled water and then dried in the open air. 0.87 g of methyl 3-bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylate is obtained in the form of a beige-coloured solid, the characteristics of which are as follows:

reactant | methyl 1H-pyrrolo[2,3-b]pyridine-2-carboxylate hydrochloride | 3.2 g | Cl.N1C(=CC=2C1=NC=CC2)C(=O)OC
reactant | pyridinium tribromide | 5.04 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | 750 ml | O | H2O
solvent | pyridine | 165 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | methyl 3-bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | 0.87 g | BrC1=C(NC2=NC=CC=C21)C(=O)OC | C9H7BrN2O2
